US08076329B2
A Reduction of 1-{3-[4-(4-oxocyclohexyl)phenoxy]propyl}pyrrolidine (456 mg) as described for (3S)-1-{3-[4-(4-hydroxycyclohexyl)phenoxy]propyl}-3-methylpiperidine, hydrochloride affords 120 mg of 1-{3-[trans-4-(4-hydroxycyclo-hexyl)phenoxy]propyl}pyrrolidine, hydrochloride as a white solid melting at 225° C.

reactant | 1-{3-[4-(4-oxocyclohexyl)phenoxy]propyl}pyrrolidine | 456 mg | O=C1CCC(CC1)C1=CC=C(OCCCN2CCCC2)C=C1 | C19H27NO2
reactant | (3S)-1-{3-[4-(4-hydroxycyclohexyl)phenoxy]propyl}-3-methylpiperidine, hydrochloride | Cl.OC1CCC(CC1)C1=CC=C(OCCCN2C[C@H](CCC2)C)C=C1
product | 1-{3-[trans-4-(4-hydroxycyclo-hexyl)phenoxy]propyl}pyrrolidine, hydrochloride | 120 mg | Cl.O[C@@H]1CC[C@H](CC1)C1=CC=C(OCCCN2CCCC2)C=C1 | InChI=1S/C19H29NO2.ClH/c21-18-8-4-16(5-9-18)17-6-10-19(11-7-17)22-15-3-14-20-12-1-2-13-20;/h6-7,10-11,16,18,21H,1-5,8-9,12-15H2;1H/t16-,18-;
